US05021434
3-(4-chlorobenzyloxy)-4-[1-(1-imidazolyl)-pentyl]-pyridine-N-oxide
0.624 g of 3-(4-chlorobenzyloxy)-4-[1-(1-imidazolyl)-pentyl]-pyridine is reacted analogously to example 15 with 0.410 g of m-chloroperbenzoic acid to the title compound.

reactant | 3-(4-chlorobenzyloxy)-4-[1-(1-imidazolyl)-pentyl]-pyridine | 0.624 g | ClC1=CC=C(COC=2C=NC=CC2C(CCCC)N2C=NC=C2)C=C1 | C20H22ClN3O
reactant | m-chloroperbenzoic acid | 0.410 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 3-(4-chlorobenzyloxy)-4-[1-(1-imidazolyl)-pentyl]-pyridine-N-oxide | ClC1=CC=C(COC=2C=[N+](C=CC2C(CCCC)N2C=NC=C2)[O-])C=C1 | C20H22ClN3O2
